US07872138B2
6,7-Dimethoxy-1,2,3,4-tetrahydro-isoquinoline HCl Salt
Bis(6,7-dimethoxy-3,4-dihydroisoquinolin-2(1H)-yl)methane, prepared as in Example 5 above (2.159 g, 5.4 mmol) was suspended in IPA (9.5 mL), and a concentrated aqueous HCl solution (1.279 g, 36% wt., 12.6 mmol) was added slowly. The solid starting material dissolved immediately after the addition of HCl, and then a solid re-precipitated after a few seconds of stirring. The resulting suspension was stirred at room temperature for 18 hours. MTBE (10 mL) was added, and the suspension was stirred at room temperature for an additional 4 hours. The solid product was collected by vacuum filtration, washed with a 1/1 mixture of IPA/MTBE (1.0 mL), and air-dried overnight to yield the title compound as a fine white solid.

reactant | Bis(6,7-dimethoxy-3,4-dihydroisoquinolin-2(1H)-yl)methane | COC=1C=C2CCN(CC2=CC1OC)CN1CC2=CC(=C(C=C2CC1)OC)OC | C23H30N2O4
reactant | HCl | 12.6 mmol, 1.279 g | Cl | ClH
solvent | IPA | 9.5 mL | CC(C)O | C3H8O
product | 6,7-Dimethoxy-1,2,3,4-tetrahydro-isoquinoline HCl Salt | Cl.COC=1C=C2CCNCC2=CC1OC | InChI=1S/C11H15NO2.ClH/c1-13-10-5-8-3-4-12-7-9(8)6-11(10)14-2;/h5-6,12H,3-4,7H2,1-2H3;1H
